### PR TITLE
Added some properties of extensive categories:

### PR DESCRIPTION
**Pull request by sergey-goncharov**
- i₁-cartesian (naturality of left injection is a pullback)
- i₂-cartesian (derived from the later)
- to-⊥-is-iso (any morphism to ⊥ is an isomorphism)

### CODE REVIEW

File: src/Categories/Category/Extensive/Properties.agda [hunk 1]
```diff
@@ -0,0 +1,181 @@
+{-# OPTIONS --without-K --safe #-}
+
+-- open import Level
+open import Categories.Category.Core
```
Comment (JacquesCarette) [inline src/Categories/Category/Extensive/Properties.agda]: `using (Category)`

File: src/Categories/Category/Extensive/Properties.agda [hunk 2]
```diff
@@ -0,0 +1,181 @@
...
+          CP.[ f ∘ p₂ pb₁ , ¡ ∘ u ]            ≈⟨ CP.[]-cong₂ (sym h₁-pb₁) (sym h₁-pb₂) ⟩
+          CP.[ h₁ ∘ p₁ pb₁ , h₁ ∘ p₁ pb₂ ]     ≈⟨ CP.g-η ⟩
+          h₁                                   ∎
+        where
+          pb₁ = pullback₁ h₂
+          pb₂ = pullback₂ h₂
+          
+          module CP = Coproduct (IsCoproduct⇒Coproduct (pullback-of-cp-is-cp h₂))
+          
+          disj-eq : i₁ ∘ (h₁ ∘ p₁ pb₂) ≈ i₂ ∘ (g ∘ p₂ pb₂)
```
Comment (JacquesCarette) [inline src/Categories/Category/Extensive/Properties.agda]: This is the exact same statement and proof as with lines 80-85. Is there any way to factor that out?

File: src/Categories/Category/Extensive/Properties.agda [hunk 3]
```diff
@@ -0,0 +1,181 @@
...
+          h₁-pb₁ = pullback₁-is-mono _ _ (begin
+            i₁ ∘ h₁ ∘ p₁ pb₁                   ≈⟨ extendʳ eq ⟩
+            (f +₁ g) ∘ h₂ ∘ p₁ pb₁             ≈⟨ refl⟩∘⟨ commute pb₁ ⟩
+            (f +₁ g) ∘ i₁ ∘ p₂ pb₁             ≈⟨ extendʳ +₁∘i₁ ⟩
+            i₁ ∘ f ∘ p₂ pb₁                    ∎)
+            
+          h₁-pb₂ : h₁ ∘ p₁ pb₂ ≈ ¡ ∘ u
+          h₁-pb₂ = sym (IsPullback.p₁∘universal≈h₁ disjoint)
+
+      p₂∘universal≈h₂ : ∀ {Q} {h₁ : Q ⇒ B} {h₂ : Q ⇒ A + C} {eq : i₁ ∘ h₁ ≈ (f +₁ g) ∘ h₂} → i₁ ∘ universal eq ≈ h₂
```
Comment (JacquesCarette) [inline src/Categories/Category/Extensive/Properties.agda:87]: This might be harder to factor, since it is *almost* the same, but not quite! Worth trying?

File: src/Categories/Category/Extensive/Properties.agda [hunk 4]
```diff
@@ -0,0 +1,181 @@
...
+          CP.[ h₂ ∘ p₁ pb₁ , h₂ ∘ p₁ pb₂ ]        ≈⟨ CP.g-η ⟩
+          h₂                                      ∎
+          
+        where
+          pb₁ = pullback₁ h₂
+          pb₂ = pullback₂ h₂
+          
+          module CP = Coproduct (IsCoproduct⇒Coproduct (pullback-of-cp-is-cp h₂))
+          
+          disj-eq : i₁ ∘ (h₁ ∘ p₁ pb₂) ≈ i₂ ∘ (g ∘ p₂ pb₂)
```
Comment (JacquesCarette) [inline src/Categories/Category/Extensive/Properties.agda]: And a third duplicate!

**Review by JacquesCarette — CHANGES_REQUESTED** [review]
Thanks. Just a few things to think about first.

File: src/Categories/Category/Extensive/Properties.agda (hunk 3 above)
Comment (sergey-goncharov) [reply src/Categories/Category/Extensive/Properties.agda:87]: You mean, unify disj-eq and h₁-pb₁? I would not. They are morally orthogonal properties. Formal unification would obscure this.

Comment (JacquesCarette) [reply src/Categories/Category/Extensive/Properties.agda:87]: No, of course not. I meant `p₂∘universal≈h₂` and `p₁∘universal≈h₁` , or maybe obtain one directly and the other 'by symmetry'.

Comment (sergey-goncharov) [reply src/Categories/Category/Extensive/Properties.agda:87]: Great observation! Indeed, it can be refactored, using the fact that coproduct injections are monic!

**Review by JacquesCarette — APPROVED** [review]

**Review by JacquesCarette — APPROVED** [review]
